US07799875B2
a) Synthesis of (4-tert-butylphenyl)phenylamine
96.4 g (452 mmol) of 1-bromo-4-tert-butylbenzene and 42.1 g (452 mmol) of aniline are dissolved in toluene and saturated with N2 for 15 min. 2.85 g (5 mmol) of DPPF, followed by 1.13 g (5 mmol) of Pd(OAc)2 and 56.8 g (588 mmol) of NaOtBu are subsequently added successively, and the mixture is refluxed for 6 h. The organic phase is separated off, washed twice with water and filtered through Celite, rinsed with toluene and evaporated in a rotary evaporator, leaving 101 g of ochre-coloured solid (99% of theory), which is employed without further purification in the subsequent reaction.

reactant | 1-bromo-4-tert-butylbenzene | 452 mmol, 96.4 g | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | aniline | 452 mmol, 42.1 g | NC1=CC=CC=C1 | C6H7N
reactant | NaOtBu | 588 mmol, 56.8 g | CC(C)(C)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | N2 | N#N | N2
catalyst | DPPF | 5 mmol, 2.85 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd(OAc)2 | 5 mmol, 1.13 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (4-tert-butylphenyl)phenylamine | 101 g, 99% | C(C)(C)(C)C1=CC=C(C=C1)NC1=CC=CC=C1 | C16H19N
